US07179823B1
After a mixture of ethyl 3-[1-[3-ethoxy-5-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-phenyl-3-pyrrolyl]propionate (621 mg), 1N aqueous sodium hydroxide solution (2.5 ml), tetrahydrofuran (5 ml) and ethanol (5 ml) was stirred at room temperature for 2 hours, 1 N hydrochloric acid (2.5 ml) was added to the mixture, and then the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4) and concentrated. The resulting colorless crystals were collected by filtration to obtain 3-[1-[3-ethoxy-5-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-phenyl-3-pyrrolyl]propionic acid (439 mg, yield: 74%). This was recrystallized from ethanol-hexane. Melting point: 126–127° C.

reactant | ethyl 3-[1-[3-ethoxy-5-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-phenyl-3-pyrrolyl]propionate | 621 mg | C(C)OC=1C=C(CN2C=C(C(=C2)C2=CC=CC=C2)CCC(=O)OCC)C=C(C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C35H36N2O5
reactant | sodium hydroxide | 1N, 2.5 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1 N, 2.5 ml | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-[1-[3-ethoxy-5-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-phenyl-3-pyrrolyl]propionic acid | 439 mg, yield: 74% | C(C)OC=1C=C(CN2C=C(C(=C2)C2=CC=CC=C2)CCC(=O)O)C=C(C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C33H32N2O5
